US05821246
Using an analogous procedure to that described in Example 1, 5-amino-2-tolyl 2-pyridylmethyl ether was reacted with 4-chloro-6,7-dimethoxyquinazoline hydrochloride to give 6,7-dimethoxy-4-[3-methyl-4-(2-pyridylmethoxy)anilino]quinazoline dihydrochloride salt in 60% yield, m.p. 239°-241° C.;

reactant | 5-amino-2-tolyl 2-pyridylmethyl ether | N1=C(C=CC=C1)COC=1C(=CC(=CC1)N)C | C13H14N2O
reactant | 4-chloro-6,7-dimethoxyquinazoline hydrochloride | Cl.ClC1=NC=NC2=CC(=C(C=C12)OC)OC
product | 6,7-dimethoxy-4-[3-methyl-4-(2-pyridylmethoxy)anilino]quinazoline dihydrochloride salt | 60% yield | Cl.Cl.COC=1C=C2C(=NC=NC2=CC1OC)NC1=CC(=C(C=C1)OCC1=NC=CC=C1)C | InChI=1S/C23H22N4O3.2ClH/c1-15-10-16(7-8-20(15)30-13-17-6-4-5-9-24-17)27-23-18-11-21(28-2)22(29-3)12-19(18)25-14-26-23;;/h4-12,14H,13H2,1-3H3,(H,25,26,27);2*1H
